US05208253
Methyl 5-[[[5-methoxy-3-(1-methylethoxy)benzo[b]thien-2-yl]carbonyl]amino]pentanoate
A solution of 5-methoxy-3-(1-methylethoxy)benzo[b]thiophene-2-carboxylic acid (500 mg, 2.00 mmoles) and 1,1'-carbonyldiimidazole (421 mg, 2.60 mmoles) in 20 mL of tetrahydrofuran is heated at reflux for 1 hour. After cooling to 0° C., the HCl salt of methyl 5-aminovalerate (787 mg, 4.7 mmoles) is added followed by triethylamine (836 μL, 6.0 mmoles). The mixture is heated at reflux overnight. The mixture is partitioned between ethyl acetate and 1N HCl. The organic layer is washed with 1N HCl, saturated NaHCO3, then brine. The organic layer is next dried over magnesium sulfate, filtered, and concentrated in vacuo. The crude product is purified by flash chromatography, eluting with 1:9 ethyl acetate:hexane to provide 530 mg (70%) of product; mp 82°-84° C.

reactant | 5-methoxy-3-(1-methylethoxy)benzo[b]thiophene-2-carboxylic acid | 2.00 mmoles, 500 mg | COC1=CC2=C(SC(=C2OC(C)C)C(=O)O)C=C1 | C13H14O4S
reactant | 1,1'-carbonyldiimidazole | 2.60 mmoles, 421 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | HCl | Cl | ClH
reactant | methyl 5-aminovalerate | 4.7 mmoles, 787 mg | NCCCCC(=O)OC | C6H13NO2
reactant | triethylamine | 6.0 mmoles, 836 μL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | Methyl 5-[[[5-methoxy-3-(1-methylethoxy)benzo[b]thien-2-yl]carbonyl]amino]pentanoate | 530 mg, 70% | COC1=CC2=C(SC(=C2OC(C)C)C(=O)NCCCCC(=O)OC)C=C1 | C19H25NO5S
